US06765009B2
3.6 g (16 mmol) of 4-Amino-naphthalene-1-carboxylic acid hydrochloride, (T. Nakayama et al, Chem. Pharm. Bull, 1984, 32, 3968-3980), was suspended in 44 mL of tert-butyl alcohol and 3.3 mL of triethylamine. To this was added 3.1 g (19 mmol) of carbonyldiimidazole. An exothermic reaction was noted, and the brown solution was stirred at room temperature for 12 h. After this time, the reaction was diluted with EtOAc, filtered through diatomaceous earth and concentrated in vacuo. Purification on silica gel, eluting with 20% EtOAc-hexanes provided 1.1 g of 4-amino-naphthalene-1-carboxylic acid tert-butyl ester as an off-white solid (29%).

reactant | 4-Amino-naphthalene-1-carboxylic acid hydrochloride | 16 mmol, 3.6 g | Cl.NC1=CC=C(C2=CC=CC=C12)C(=O)O
reactant | carbonyldiimidazole | 19 mmol, 3.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tert-butyl alcohol | 44 mL | C(C)(C)(C)O | C4H10O
solvent | triethylamine | 3.3 mL | C(C)N(CC)CC | C6H15N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-amino-naphthalene-1-carboxylic acid tert-butyl ester | 1.1 g, 29% | C(C)(C)(C)OC(=O)C1=CC=C(C2=CC=CC=C12)N | C15H17NO2
